US07875728B2
Preparation of 4-[(3-fluorophenyl)hydrazono]-5-morpholin-4-ylmethyl-4H-pyrazol-3-ylamine
To a mixture of 5-(aminomethyl)-4-(3-fluorophenylhydrazono)-3-amino-4H-pyrazole (60 mg, 0.25 mmole) and triethylamine (71 μL, 0.512 mmole) in 3 mL of anhydrous DMF was added solid di(2-tosyloxyethyl)ether (108 mg, 0.25 mmole). The reaction was heated at 87° C. for 5-6 hours, and was then worked up by the addition of saline and ethyl acetate. The crude material was purified by preparative TLC (CH2Cl2:CH3OH=15:1) to yield 13 mg of the title compound as a yellow powder. MS (m/z, ES+): 305 (M+1, 100%); 1H NMR (ppm, 300 MHz, DMSO-d6) δ 7.53 (m, 1H), 7.40 (m, 2H), 7.03 (m, 1H), 6.45 (br s, 2H), 3.97 (s, 2H), 3.74 (m, 4H), 2.65 (m, 4H).

reactant | 5-(aminomethyl)-4-(3-fluorophenylhydrazono)-3-amino-4H-pyrazole | 0.25 mmole, 60 mg | NCC=1C(C(=NN1)N)=NNC1=CC(=CC=C1)F | C10H11FN6
reactant | triethylamine | 0.512 mmole, 71 μL | C(C)N(CC)CC | C6H15N
reactant | di(2-tosyloxyethyl)ether | 0.25 mmole, 108 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOS(=O)(=O)C1=CC=C(C)C=C1 | C18H22O7S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-[(3-fluorophenyl)hydrazono]-5-morpholin-4-ylmethyl-4H-pyrazol-3-ylamine | 13 mg | FC=1C=C(C=CC1)NN=C1C(=NN=C1CN1CCOCC1)N | C14H17FN6O
